US05541274
A1) 4-(3-Acryloxy-2-hydroxypropoxy)-1,2,2,6,6-pentamethylpiperidine
375 g (1.65 mol of (4-(2,3-epoxypropoxy)-1,2,2,6,6-pentamethylpiperidine (=A1a) in 1.5 l of xylene are introduced under argon into a 2.5 l sulfonation flask fitted with magnetic stirrer, thermometer and condenser. 108 g (1.5 mol) of acrylic acid and 27.8 g (75 mmol) of ethyltriphenylphosphonium bromide are added. The reactants are allowed to react at 70° C. for 18 hours. The cooled product is poured into ice water, and the organic phase is separated off, washed twice with 1N sodium hydroxide solution, dried and evaporated. The residue is distilled over a short Vigreux column. 193 g (43%) of the title product are obtained as a clear liquid of boiling point 119°-125° C. (0.06 mm Hg).

reactant | 4-(2,3-epoxypropoxy)-1,2,2,6,6-pentamethylpiperidine | O1C(COC2CC(N(C(C2)(C)C)C)(C)C)C1 | C13H25NO2
reactant | acrylic acid | 1.5 mol, 108 g | C(C=C)(=O)O | C3H4O2
solvent | xylene | 1.5 l | C=1(C(=CC=CC1)C)C | C8H10
catalyst | ethyltriphenylphosphonium bromide | 75 mmol, 27.8 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(3-Acryloxy-2-hydroxypropoxy)-1,2,2,6,6-pentamethylpiperidine | 193 g, 43% | C(C=C)(=O)OCC(COC1CC(N(C(C1)(C)C)C)(C)C)O | C16H29NO4
